US08039450B2
A solution of bromomethyl cyclopropane (0.544 mL, 5.61 mmol), sodium iodide (4.20 g, 28.05 mmol), and N,N-dimethylformamide (30 mL) under a nitrogen balloon were stirred at 70° C. for 3 hours. The reaction was cooled to room temperature and 3-hydroxy-4-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)benzonitrile (0.500 g, 1.87 mmol) and more N,N-dimethylformamide (30 mL) was added. The reaction was cooled to 0° C. in an ice water bath and sodium hydride (0.224 g, 5.61 mmol) was added. The reaction was stirred under nitrogen balloon at 0° C. for 5 minutes and then at room temperature overnight. Water was added to quench excess sodium hydride and the solution was neutralized using 1 M HCl. Water was added and the solution was extracted using ethyl acetate. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate, and filtered. The solvent was removed under reduced pressure. The residue was purified by silica gel column using Combiflash to give 3-(cyclopropylmethoxy)-4-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)benzonitrile (0.225 g, 37% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.15 (d, J=4.5 Hz, 2H), 0.43 (d, J=7.6 Hz, 2H), 1.06 (septet, J=6.7 Hz, 1H), 3.90, (d, J=6.9 Hz, 1H), 4.91 (s, 2H), 6.95 (m, 2H), 7.13 (d, J=8.2 Hz, 1H), 7.42 (d, J=8.4 Hz, 1H), 7.62 (s, 1H), 7.70 (d, J=8.6 Hz, 1H), 9.12 (s, 1H).

reactant | bromomethyl cyclopropane | 5.61 mmol, 0.544 mL | BrCC1CC1 | C4H7Br
reactant | sodium iodide | 28.05 mmol, 4.20 g | [I-].[Na+]
reactant | 3-hydroxy-4-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)benzonitrile | 1.87 mmol, 0.500 g | OC=1C=C(C#N)C=CC1OC1=CC2=C(B(OC2)O)C=C1 | C14H10BNO4
reactant | sodium hydride | 5.61 mmol, 0.224 g | [H-].[Na+]
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-(cyclopropylmethoxy)-4-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)benzonitrile | 0.225 g, 37% yield | C1(CC1)COC=1C=C(C#N)C=CC1OC1=CC2=C(B(OC2)O)C=C1 | C18H16BNO4
